*** SPICE deck for cell and1x{lay} from library project_arshad
*** Created on Tue Nov 03, 2020 22:08:37
*** Last revised on Sun Jan 10, 2021 22:53:45
*** Written on Sun Jan 10, 2021 22:53:57 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 0.1, MIN_CAPAC 0.01FF
***    P-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    N-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=3.0ohms/sq
***    Polysilicon-1:	areacap=0.1467FF/um^2,	edgecap=0.0608FF/um,	res=6.2ohms/sq
***    Polysilicon-2:	areacap=1.0FF/um^2,	edgecap=0.0FF/um,	res=50.0ohms/sq
***    Transistor-Poly:	areacap=0.09FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Poly-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.2ohms/sq
***    Active-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Metal-1:	areacap=0.1209FF/um^2,	edgecap=0.1104FF/um,	res=0.078ohms/sq
***    Via1:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq
***    Metal-2:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via2:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.9ohms/sq
***    Metal-3:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via3:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-4:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via4:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-5:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via5:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-6:	areacap=0.0423FF/um^2,	edgecap=0.1273FF/um,	res=0.036ohms/sq
***    Hi-Res:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq

*** SUBCIRCUIT and1x FROM CELL and1x{lay}
.SUBCKT and1x A B gnd vdd Y
Mnmos@8 gnd A#3nmos@8_poly-left net@230 gnd nmos_HP L=0.022U W=0.088U AS=0.003P AD=0.005P PS=0.154U PD=0.275U
Mnmos@9 net@230 B#1pin@103_polysilicon-1 net@210#3contact@60_metal-1-n-act gnd nmos_HP L=0.022U W=0.088U AS=0.004P AD=0.003P PS=0.205U PD=0.154U
Mnmos@10 gnd net@210#12nmos@10_poly-left Y#4contact@80_metal-1-n-act gnd nmos_HP L=0.022U W=0.044U AS=0.004P AD=0.005P PS=0.269U PD=0.275U
Mpmos@7 vdd A#1pmos@7_poly-right net@210 vdd pmos_HP L=0.022U W=0.088U AS=0.004P AD=0.006P PS=0.205U PD=0.304U
Mpmos@8 net@210 B#4pmos@8_poly-right vdd vdd pmos_HP L=0.022U W=0.088U AS=0.006P AD=0.004P PS=0.304U PD=0.205U
Mpmos@9 vdd net@210#14pmos@9_poly-right Y#0contact@76_metal-1-p-act vdd pmos_HP L=0.022U W=0.088U AS=0.004P AD=0.006P PS=0.269U PD=0.304U
** Extracted Parasitic Capacitors ***
C0 net@210#3contact@60_metal-1-n-act 0 0.024fF
C1 A#0contact@71_metal-1-polysilicon-1 0 0.018fF
C2 B#0contact@72_metal-1-polysilicon-1 0 0.015fF
C3 Y#0contact@76_metal-1-p-act 0 0.021fF
C4 net@210#8pin@116_metal-2 0 0.014fF
C5 Y#4contact@80_metal-1-n-act 0 0.016fF
C6 B#2pin@104_metal-1 0 0.023fF
C7 B 0 0.014fF
C8 A 0 0.013fF
C9 net@210#5pin@114_metal-2 0 0.028fF
C10 net@210#7pin@115_metal-2 0 0.044fF
C11 Y#2pin@122_metal-1 0 0.035fF
C12 Y#3pin@125_metal-1 0 0.024fF
** Extracted Parasitic Resistors ***
R0 B#0contact@72_metal-1-polysilicon-1 B#0contact@72_metal-1-polysilicon-1##0 7.75
R1 B#0contact@72_metal-1-polysilicon-1##0 B#0contact@72_metal-1-polysilicon-1##1 7.75
R2 B#0contact@72_metal-1-polysilicon-1##1 B#0contact@72_metal-1-polysilicon-1##2 7.75
R3 B#0contact@72_metal-1-polysilicon-1##2 B#1pin@103_polysilicon-1 7.75
R4 B#0contact@72_metal-1-polysilicon-1 B#2pin@104_metal-1 0.137
R5 B#2pin@104_metal-1 B 0.224
R6 A#0contact@71_metal-1-polysilicon-1 A 0.205
R7 net@210 net@210#5pin@114_metal-2 0.166
R8 net@210#5pin@114_metal-2 net@210#7pin@115_metal-2 0.332
R9 net@210#7pin@115_metal-2 net@210#3contact@60_metal-1-n-act 0.332
R10 net@210#7pin@115_metal-2 net@210#8pin@116_metal-2 0.127
R11 A#0contact@71_metal-1-polysilicon-1 A#1pmos@7_poly-right 7.75
R12 A#0contact@71_metal-1-polysilicon-1 A#0contact@71_metal-1-polysilicon-1##0 8.636
R13 A#0contact@71_metal-1-polysilicon-1##0 A#0contact@71_metal-1-polysilicon-1##1 8.636
R14 A#0contact@71_metal-1-polysilicon-1##1 A#0contact@71_metal-1-polysilicon-1##2 8.636
R15 A#0contact@71_metal-1-polysilicon-1##2 A#0contact@71_metal-1-polysilicon-1##3 8.636
R16 A#0contact@71_metal-1-polysilicon-1##3 A#0contact@71_metal-1-polysilicon-1##4 8.636
R17 A#0contact@71_metal-1-polysilicon-1##4 A#0contact@71_metal-1-polysilicon-1##5 8.636
R18 A#0contact@71_metal-1-polysilicon-1##5 A#3nmos@8_poly-left 8.636
R19 B#0contact@72_metal-1-polysilicon-1 B#0contact@72_metal-1-polysilicon-1##0 9.3
R20 B#0contact@72_metal-1-polysilicon-1##0 B#0contact@72_metal-1-polysilicon-1##1 9.3
R21 B#0contact@72_metal-1-polysilicon-1##1 B#0contact@72_metal-1-polysilicon-1##2 9.3
R22 B#0contact@72_metal-1-polysilicon-1##2 B#4pmos@8_poly-right 9.3
R23 Y#0contact@76_metal-1-p-act Y#2pin@122_metal-1 0.322
R24 Y#2pin@122_metal-1 Y 0.117
R25 net@210#12nmos@10_poly-left net@210#12nmos@10_poly-left##0 8.99
R26 net@210#12nmos@10_poly-left##0 net@210#12nmos@10_poly-left##1 8.99
R27 net@210#12nmos@10_poly-left##1 net@210#12nmos@10_poly-left##2 8.99
R28 net@210#12nmos@10_poly-left##2 net@210#12nmos@10_poly-left##3 8.99
R29 net@210#12nmos@10_poly-left##3 net@210#13pin@124_polysilicon-1 8.99
R30 net@210#13pin@124_polysilicon-1 net@210#13pin@124_polysilicon-1##0 8.525
R31 net@210#13pin@124_polysilicon-1##0 net@210#13pin@124_polysilicon-1##1 8.525
R32 net@210#13pin@124_polysilicon-1##1 net@210#13pin@124_polysilicon-1##2 8.525
R33 net@210#13pin@124_polysilicon-1##2 net@210#14pmos@9_poly-right 8.525
R34 net@210#13pin@124_polysilicon-1 net@210#13pin@124_polysilicon-1##0 7.233
R35 net@210#13pin@124_polysilicon-1##0 net@210#13pin@124_polysilicon-1##1 7.233
R36 net@210#13pin@124_polysilicon-1##1 net@210#8pin@116_metal-2 7.233
R37 Y#2pin@122_metal-1 Y#3pin@125_metal-1 0.117
R38 Y#4contact@80_metal-1-n-act Y#3pin@125_metal-1 0.254

* Spice Code nodes in cell cell 'and1x{lay}'
.include "../22nm_HP.pm"
.ENDS and1x


Xand1x A B gnd vdd Y and1x

